US03992389
4-(4-Benzamidopiperid-1-yl)-1,1-diphenylbut-1-ene
Using the procedure of Example 77 over a period of 20 hours, 4-benzamidopiperidine (7.473 g.) was alkylated with 1,1-diphenyl-4-chlorobut-1-ene (8.879 g.). The title compound was filteredoff after addition of water and ether to the reaction mixture and a furthercrop was obtained from the ether washings. Conversion of the combined product to the hydrochloride using ethanolic hydrogen chloride gave 6.308 g. (38.2%). m.p. 220°-230° (dec.). C28H30N2O.HCl.1/4H2O requires C, 74.46; H, 7.03; N, 6.20. Found: C, 74.77; H,7.26; N, 6.14%.

reactant | 4-benzamidopiperidine | 7.473 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | 1,1-diphenyl-4-chlorobut-1-ene | 8.879 g | C1(=CC=CC=C1)C(=CCCCl)C1=CC=CC=C1 | C16H15Cl
product | 4-(4-Benzamidopiperid-1-yl)-1,1-diphenylbut-1-ene | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C28H30N2O
